.subckt AND_3 inA inB inC out vdd gnd
    .include NAND_3.sub
    .include NOT.sub

    X1 inA inB inC out1 vdd gnd NAND_3
    X2 out1 out vdd gnd NOT
.ends AND_3