.subckt NOR_4 inA inB inC inD out vdd gnd
    .include OR.sub
    .include NOR_3.sub

    X1 inA inB out1 vdd gnd OR
    X2 inC inD out1 out vdd gnd NOR_3
.ends NOR_4