.subckt OR_4 inA inB inC inD out vdd gnd
    .include NOT.sub
    .include NOR_4.sub

    X1 inA inB inC inD out1 vdd gnd NOR_4
    X2 out1 out vdd gnd NOT
.ends OR_4