.subckt XOR inA inB out vdd gnd
    .include NOT.sub
    .include AND.sub
    .include OR.sub
    
    X1 inA inA_c vdd gnd NOT
    X2 inB inB_c vdd gnd NOT

    X3 inA inB_c ABc vdd gnd AND
    X4 inB inA_c AcB vdd gnd AND

    X5 ABc AcB out vdd gnd OR
.ends XOR
